US05166367
7-[3-[[(2.3-Dihydro-7-chloro-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-7-chloro-1,4-benzodioxin-2-methanamine (1.72 g, 8.62 mmole), 7-(3-chloropropoxy)coumarin (1.88 g, 7.88 mmole), diisopropylethylamine (7.5 ml, 43.1 mmole) and sodium iodide (1.37 g, 9.14 mmole) were combined in 200 ml of DMF and heated at 80°-100° C. for 3 days under a nitrogen atmosphere. The solvent was then removed in vacuum and the residue was column chromatographed on silica gel using first 0.5% methanol/dichloromethane and then 1% methanol/dichloromethane as eluant. The product-containing fractions were combined and concentrated in vacuum, during which procedure the free base began to come out of solution. This material was collected by filtration and recrystallized from isopropanol with addition of 4N HCl/isopropanol to give 0.27 g of white solid, monohydrochloride, m.p. 235°-242° C.

reactant | 2,3-Dihydro-7-chloro-1,4-benzodioxin-2-methanamine | 8.62 mmole, 1.72 g | ClC=1C=CC2=C(OC(CO2)CN)C1 | C9H10ClNO2
reactant | 7-(3-chloropropoxy)coumarin | 7.88 mmole, 1.88 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 43.1 mmole, 7.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 9.14 mmole, 1.37 g | [I-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2.3-Dihydro-7-chloro-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 0.27 g | ClC=1C=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C1 | C21H20ClNO5
